US06982348B2
2) N-{(1RS,2SR)-2-hydroxy-2-(3-hydroxyphenyl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide
To a solution of 3-{(1RS,2SR)-2-amino-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl}phenol (2.89 g, 8.04 mmol) in acetonitrile (50 ml) were added 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (1.51 g, 8.04 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.31 g, 12.06 mmol) and 1-hydroxybenzotriazole hydrate (1.23 g, 8.04 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (200 ml) and extracted with ethyl acetate (200 ml×2). The extract was washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1-1:1) to give the objective substance (2.75 g, 65%) as an amorphous compound.

reactant | 3-{(1RS,2SR)-2-amino-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl}phenol | 8.04 mmol, 2.89 g | NC(C(O)C=1C=C(C=CC1)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C17H17F4NO3
reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 8.04 mmol, 1.51 g | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 12.06 mmol, 2.31 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 8.04 mmol, 1.23 g | O.ON1N=NC2=C1C=CC=C2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | 200 ml | O | H2O
product | N-{(1RS,2SR)-2-hydroxy-2-(3-hydroxyphenyl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide | OC(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(=O)C=1C=CC=C2C1C=CCCC2)C2=CC(=CC=C2)O | C29H27F4NO4
